US08349880B2
Step K (4): Methanolic ammonia (2.0 M, 20 mL, 40 mmol) was added to a flask charged with 4-(4-isothiocyanato-2-methoxyphenyl)-1-methyl-1H-pyrazole (1.46 g, 5.95 mmol). After 3 h, the reaction mixture was concentrated in vacuo. The solid was triturated with diethyl ether. The solid was collected by vacuum filtration and dried under high vacuum to afford 1-(3-methoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl)thiourea (1.35 g, 86% yield). LC-MS (M+H)+ 263.1.

reactant | ammonia | 40 mmol, 2.0 M, 20 mL | N | H3N
reactant | 4-(4-isothiocyanato-2-methoxyphenyl)-1-methyl-1H-pyrazole | 5.95 mmol, 1.46 g | N(=C=S)C1=CC(=C(C=C1)C=1C=NN(C1)C)OC | C12H11N3OS
product | 1-(3-methoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl)thiourea | 1.35 g, 86% yield | COC=1C=C(C=CC1C=1C=NN(C1)C)NC(=S)N | C12H14N4OS
